US05962458
A solution of 1,1'-(azodicarbonyl)dipiperidine (378 mg, 1.5 mmol) in methylene chloride (5 ml) was added dropwise to a suspension of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (160 mg, 0.5 mmol), tributylphosphine (303 mg, 1.5 mmol) and 2-(imidazol-1-yl)ethanol (67 mg, 0.6 mmol), (J. Med. Chem. 1993, 25, 4052-4060), in methylene chloride (8 ml) and the mixture was stirred for 3 hours at ambient temperature. Acetic acid (60 mg, 1 mmol) was added and the solvent was removed by evaporation. The solid residue was adsorbed on silica and purified by column chromatography eluting with methylene chloride/methanol (9/1 followed by 8/2). The resulting white solid was dissolved in methylene chloride/methanol and a solution of 5M hydrochloric acid in isopropanol was added. The solvent was removed by evaporation and the solid was triturated with ether, filtered, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride (1 80 mg, 74%).

reactant | 1,1'-(azodicarbonyl)dipiperidine | 1.5 mmol, 378 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.5 mmol, 160 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | tributylphosphine | 1.5 mmol, 303 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2-(imidazol-1-yl)ethanol | 0.6 mmol, 67 mg | N1(C=NC=C1)CCO | C5H8N2O
reactant | Acetic acid | 1 mmol, 60 mg | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride | 80 mg, 74% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C=NC=C2)C=C1)F | InChI=1S/C20H17ClFN5O2.ClH/c1-28-18-9-14-17(10-19(18)29-7-6-27-5-4-23-12-27)24-11-25-20(14)26-16-3-2-13(21)8-15(16)22;/h2-5,8-12H,6-7H2,1H3,(H,24,25,26);1H
